US09212187B2
Synthesis of 1-Methyl-6-[3-(piperidin-4-yl-pyridin-4-ylmethyl-amino)-propoxy]-1H-quinolin-2-one
Trifluoroacetic acid (30 ml) was added to a dichloromethane solution (10 ml) of 4-{[3-(1-methyl-2-oxo-1,2-dihydro-quinolin-6-yloxy)-propyl]-pyridin-4-ylmethyl-amino}-piperidine-1-carboxylic acid tert-butyl ester (1.08 g), and the mixture was stirred at room temperature overnight. The reaction mixture was condensed under reduced pressure. PL-HCO3(40 g) was added to the dichloromethane solution of the residue and followed by celite filtration. The filtrate was condensed under reduced pressure. The residue was purified by NH silica gel column chromatography (ethyl acetate: methanol=4:1). The purified product was condensed under reduced pressure to give the title compound(758 mg) as an orange oil.

reactant | Trifluoroacetic acid | 30 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | 4-{[3-(1-methyl-2-oxo-1,2-dihydro-quinolin-6-yloxy)-propyl]-pyridin-4-ylmethyl-amino}-piperidine-1-carboxylic acid tert-butyl ester | 1.08 g | C(C)(C)(C)OC(=O)N1CCC(CC1)N(CC1=CC=NC=C1)CCCOC=1C=C2C=CC(N(C2=CC1)C)=O | C29H38N4O4
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 1-Methyl-6-[3-(piperidin-4-yl-pyridin-4-ylmethyl-amino)-propoxy]-1H-quinolin-2-one | 758 mg | CN1C(C=CC2=CC(=CC=C12)OCCCN(CC1=CC=NC=C1)C1CCNCC1)=O | C24H30N4O2
